US05420138
Stage A: 1-(4-bromophenyl) 2-heptyn-1-one
The following were stirred at ambient temperature for about 2 hours 30 minutes, 49 ml of 1-hexyne, 75 ml of triethylamine, 40 mg of cuprous iodide, 40 mg of bis triphenylphosphine palladium dichloride and 9 g of parabromobenzoyl chloride.

reactant | 1-hexyne | 49 ml | C#CCCCC | C6H10
reactant | parabromobenzoyl chloride | 9 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
solvent | triethylamine | 75 ml | C(C)N(CC)CC | C6H15N
product | 1-(4-bromophenyl) 2-heptyn-1-one | BrC1=CC=C(C=C1)C(C#CCCCC)=O | C13H13BrO
